US03988373
To a solution of [2-(3,3,5-trimethylcyclohexyl)ethyl]dimethylamine (1.0 g) in benzene (30 cc) was added methyliodide (2.0 g), and the mixture was allowed to stand over night. Precipitated crystals were gathered by filtration and recrystallized from a mixed solvent of benzene and ether to give colorless crystals (1.6 g) of [2-(3,3,5-trimethylcyclohexyl)ethyl]trimethylammonium iodide, m.p. 263°-265° C.

reactant | [2-(3,3,5-trimethylcyclohexyl)ethyl]dimethylamine | 1.0 g | CC1(CC(CC(C1)C)CCN(C)C)C | C13H27N
reactant | methyliodide | 2.0 g | CI | CH3I
solvent | benzene | 30 cc | C1=CC=CC=C1 | C6H6
product | [2-(3,3,5-trimethylcyclohexyl)ethyl]trimethylammonium iodide | 1.6 g | [I-].CC1(CC(CC(C1)C)CC[N+](C)(C)C)C | InChI=1S/C14H30N.HI/c1-12-9-13(7-8-15(4,5)6)11-14(2,3)10-12;/h12-13H,7-11H2,1-6H3;1H/q+1;/p-1
